US08703953B2
Conversion of 4-bromo-2-hydroxybenzaldehyde to its sodium salt was carried out as follows: A solution of 4-bromo-2-hydroxybenzaldehyde (3.0 g, 24.9 mmol) in MeOH (−150 mL) was treated with 1N aq. NaOH (15.7 mL, 1.05 equiv). The resulting pale yellow solution was concentrated under reduced pressure. EtOH (30 mL) was added to the residue and the solution was concentrated under reduced pressure. This was repeated with EtOH (30 mL) and then with heptane (50 mL). The resulting yellow, powdery sodium salt was dissolved in DMF (60 mL) with stirring and to it was added propargyl bromide in toluene (80 wt %, 2.33 mL, 1.4 equiv). The reaction mixture was stirred at ambient temperature for 22 h, after which time the volatiles were concentrated under reduced pressure. The residue was partitioned between EtOAc (70 mL) and water (40 mL). The organic layer was separated and treated with charcoal (˜1 g) then dried (Na2SO4) and filtered. The filtrate was concentrated under reduced pressure. The residue obtained was crystallized from EtOAc and hexane (3:7). Crop I afforded 4-bromo-2-(prop-2-ynyloxy)benzaldehyde (893 mg) as colorless needles. The mother liquor was concentrated under reduced pressure and crystallized again from EtOAc and hexane (7:93) to obtain a further Crop II of 4-bromo-2-(prop-2-ynyloxy)benzaldehyde (1.902 g). The mother liquor was concentrated again and subjected to one more crystallization as described before. Crop III yielded additional 4-bromo-2-(prop-2-ynyloxy)benzaldehyde (344 mg). All the three crops were combined to give a total of 3.14 g (87% yield) of 4-bromo-2-(prop-2-ynyloxy)benzaldehyde as colorless needles. 1H NMR (500 MHz, CDCl3) δ 10.43 (s, 1 H), 7.74 (d, J=8.2 Hz, 1 H), 7.31 (d, J=1.5 Hz, 1 H), 7.24-7.28 (m, 1 H), 4.85 (d, J=2.4 Hz, 2H), 2.64 (t, J=2.4 Hz, 1H); LCMS (Method A) (ESI) m/e 239.0, 241.0 Br pattern [(M+H)+, calcd for C10H7BrO2 239.0]; SiO2 TLC (EtOAc:Hexane=1:9) indicated Rf of 0.32 compared with an Rf of 0.43 for starting material aldehyde.

reactant | 4-bromo-2-hydroxybenzaldehyde | BrC1=CC(=C(C=O)C=C1)O | C7H5BrO2
reactant | sodium | [Na] | Na
reactant | 4-bromo-2-hydroxybenzaldehyde | 24.9 mmol, 3.0 g | BrC1=CC(=C(C=O)C=C1)O | C7H5BrO2
reactant | NaOH | 1N, 15.7 mL, 1.05 equiv | [OH-].[Na+]
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | toluene | 2.33 mL, 1.4 equiv | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | −150 mL | CO | CH4O
product | 4-bromo-2-(prop-2-ynyloxy)benzaldehyde | 893 mg | BrC1=CC(=C(C=O)C=C1)OCC#C | C10H7BrO2
